US06333349B1
A mixture of 33 g of N-methylethanesulfonamide, 101 g of hexamethyldisilazane and a spatula tipful of ammonium chloride was heated under argon, first for 2 h at 100° C. and then for a further 1 h at 130° C. By distillation of the reaction mixture in vacuo, 42 g of N-methyl-N-trimethylsilylethanesulfonamide were obtained with the boiling point 118-121° C./10 mm Hg.

reactant | N-methylethanesulfonamide | 33 g | CNS(=O)(=O)CC | C3H9NO2S
reactant | hexamethyldisilazane | 101 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium chloride | [Cl-].[NH4+]
product | N-methyl-N-trimethylsilylethanesulfonamide | 42 g | CN(S(=O)(=O)CC)[Si](C)(C)C | C6H17NO2SSi
